US05990101
3-(1-hydroxyethyl)imidazo[5,1-b]thiazole
Under an argon atmosphere, 1 ml of a 3.0M methylmagnesium bromide-diethyl ether solution was added dropwise to 15 ml of an anhydrous THF solution containing 304 mg of 3- formylimidazo[5,1-b]thiazole at -78° C., and the mixture was then stirred at the same temperature for 3.5 hours. Further, an aqueous ammonium chloride solution was added to the reaction solution, and the solution was then extracted three times with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under reduced pressure. The resulting residue was purified by a silica gel column chromatograph to obtain 296 mg of the title compound as a colorless crystal.

reactant | methylmagnesium bromide diethyl ether | 3.0M | C[Mg]Br.C(C)OCC
reactant | 3- formylimidazo[5,1-b]thiazole | 304 mg | C(=O)C=1N2C(SC1)=CN=C2 | C6H4N2OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-(1-hydroxyethyl)imidazo[5,1-b]thiazole | 296 mg | OC(C)C=1N2C(SC1)=CN=C2 | C7H8N2OS
